US08193362B2
A solution of 3-amino-2-chloro-6-trifluoromethyl-pyridine (0.890 g), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (1.4 g) (prepared as described in WO 2006/003494) and tetrakis(triphenyl-phosphine)palladium (0.200 g) in 1,2-dimethoxyethane (45 ml) was treated with aqueous potassium phosphate (1.1 M) (1.92 g). The reaction mixture was stirred at 80° C. for 3 hours. Aqueous workup with ethyl acetate furnished a residue which was purified by chromatography on silica gel (eluent: hexane/ethyl acetate 1:1) to give 3-amino-6-trifluoromethyl-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester (1.5 g) as a white solid. MS (ES+) 288 (M-isoprene); 1H NMR (400 MHz, CDCl3) 1.50 (s, 9H), 2.61 (m, 2H), 3.67 (t, 2H), 4.10 (m, 2H), 4.21 (s, 2H), 6.11 (s, 1H), 7.03 (d, 1H), 7.33 (d, 1H).

reactant | 3-amino-2-chloro-6-trifluoromethyl-pyridine | 0.890 g | NC=1C(=NC(=CC1)C(F)(F)F)Cl | C6H4ClF3N2
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.4 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | potassium phosphate | 1.1 M, 1.92 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 45 ml | COCCOC | C4H10O2
product | 3-amino-6-trifluoromethyl-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC(=CC=C1N)C(F)(F)F | C16H20F3N3O2
